US04238626
40 g of 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-anisole were added to a solution of 125 ml of 48% hydrobromic acid and 300 ml of glacial acetic acid. The mixture was then refluxed for 2 hours at the reflux condenser. After concentration under reduced pressure, water was added to the residue and the mixture was extracted with methylene chloride. After the organic extract had been shaken several times with water, it was concentrated and the residue was distilled under greatly reduced pressure. 39 g of 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-phenol were obtained, boiling point: 186°-190° C. under a pressure of 2-3 mm mercury.

reactant | 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-anisole | 40 g | ClC1=C(C=C(OC2=CC(=C(C(=C2)C)OC)C)C=C1C)C | C17H19ClO2
reactant | hydrobromic acid | 125 ml | Br | BrH
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4(4-chloro-3,5-dimethyl-phenoxy)-2,6-dimethyl-phenol | 39 g | ClC1=C(C=C(OC2=CC(=C(C(=C2)C)O)C)C=C1C)C | C16H17ClO2
